US04424359
(c) Preparation of 3-methyl-6-acetoxymethyl-2,2'-bipyridine
2.1 g (8.1 mmols) of 3-methyl-6-acetoxymethyl-2,2'-bipyridine 1'-oxide are dissolved in 20 ml of benzene at 45° C., and 1.43 g (10.4 mmols) of phosphorus trichloride are added dropwise under an atmosphere of nitrogen. Subsequently, the mixture is boiled under reflux for 30 minutes. After cooling to 23° C., 35 ml of water are added and the benzene phase is separated off. The water phase is washed with twice 15 ml of ethyl acetate. The combined organic phases are dried over sodium sulfate and concentrated in vacuo. After distillation in a bulb tube oven at 125° C./0.13 Pa, 1.51 g (77% of theory) of 3-methyl-6-acetoxymethyl-2,2'-bipyridine are obtained in the form of a colourless oil.

reactant | 3-methyl-6-acetoxymethyl-2,2'-bipyridine 1'-oxide | 8.1 mmols, 2.1 g | CC=1C(=NC(=CC1)COC(C)=O)C=1[N+](=CC=CC1)[O-] | C14H14N2O3
reactant | phosphorus trichloride | 10.4 mmols, 1.43 g | P(Cl)(Cl)Cl | Cl3P
reactant | water | 35 ml | O | H2O
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 3-methyl-6-acetoxymethyl-2,2'-bipyridine | CC=1C(=NC(=CC1)COC(C)=O)C1=NC=CC=C1 | C14H14N2O2
